US05733912
10a. 7a-(2,6-difluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine
A solution of 2.5M nBuLi (675 μL, 1.7 mmol) in hexanes was added to diisopropylamine (220 μL, 1.6 mmol) in THF (4.5 mL) at ambient temperature. After 10 minutes of stirring, the reaction mixture was cooled to -78° C., 2,6-difluoropyridine (145 μL, 1.6 mmol) was introduced, and stirring was continued for 1 hour at -78° C. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (500 mg, 2.4 mmol) was then added, and the cold bath was removed. After warming to ambient temperature, a solution of 2N HCl was added and the phases were separated after pouting the reaction mixture over EtOAc. The aqueous phase was basified with 15% NaOH solution and extracted with CH2Cl2 (2×). The CH2Cl2 extracts were combined, dried (MgSO4), concentrated and chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (180 mg, 50%). MS (CI/NH3) m/e: 225 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ1.5-1.63 (m, 2H), 1.78-1.89 (m, 2H), 1.92-2.10 (m, 4H), 2.63-2.70 (m, 2H), 3.08-3.12 (m, 2H), 6.72 (dd, J=8.1, 3.0 Hz, 1H), 8.33 (dd, J=18.0, 8.1 Hz, 1H).

reactant | nBuLi | 1.7 mmol, 2.5M, 675 μL | [Li]CCCC
reactant | diisopropylamine | 1.6 mmol, 220 μL | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-difluoropyridine | 1.6 mmol, 145 μL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 2.4 mmol, 500 mg | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | 7a-(2,6-difluoro-3-pyridinyl)-hexahydro-1H-pyrrolizine | 180 mg, 50% | FC1=NC(=CC=C1C12CCCN2CCC1)F | C12H14F2N2
